US07915424B2
(E)-5-Phenylethynylpyridine-3-carbaldehyde O-methyloxime hydrochloride
Dissolve 5-phenylethynylpyridine-3-carbaldehyde (0.20 g, 0.97 mmol), (prepared essentially as described in EXAMPLE 5), in ethanol (2.0 mL) and sequentially add potassium carbonate (0.67 g, 4.8 mmol) and methoxylamine hydrochloride (0.64 g, 5.6 mmol). Heat at reflux overnight, cool to room temperature and filter. Concentrate and purify by silica gel chromatography, eluting with a linear gradient of 90:10 to 50:50 hexanes:ethyl acetate to obtain the free base of the title compound as a colorless oil as well as a minor amount of EXAMPLE 86.

reactant | 5-phenylethynylpyridine-3-carbaldehyde | 0.97 mmol, 0.20 g | C1(=CC=CC=C1)C#CC=1C=C(C=NC1)C=O | C14H9NO
reactant | potassium carbonate | 4.8 mmol, 0.67 g | C([O-])([O-])=O.[K+].[K+]
reactant | methoxylamine hydrochloride | 5.6 mmol, 0.64 g | Cl.O(C)N
solvent | ethanol | 2.0 mL | C(C)O | C2H6O
product | (E)-5-Phenylethynylpyridine-3-carbaldehyde O-methyloxime hydrochloride | Cl.CO\N=C\C=1C=NC=C(C1)C#CC1=CC=CC=C1 | InChI=1S/C15H12N2O.ClH/c1-18-17-12-15-9-14(10-16-11-15)8-7-13-5-3-2-4-6-13;/h2-6,9-12H,1H3;1H/b17-12+;
